US08044063B2
6,7-dimethoxy-quinazolone was reacted with methanesulfonic acid and L-methionine under reflux for 2 h, and then the mixture was poured into ice water to deposit a solid, which is 6-hydroxy-7-methoxy-quinazolone intermediate. After the hydroxyl group therein was protected by acylation, the intermediate was treated with SOCl2 to obtain 4-chloro-6-acetoxy-7-methoxy-quinazoline.

reactant | 6,7-dimethoxy-quinazolone | COC=1C=C2C=NC(NC2=CC1OC)=O | C10H10N2O3
reactant | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
reactant | L-methionine | N[C@@H](CCSC)C(=O)O | C5H11NO2S
reactant | 6-hydroxy-7-methoxy-quinazolone | OC=1C=C2C=NC(NC2=CC1OC)=O | C9H8N2O3
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
product | 4-chloro-6-acetoxy-7-methoxy-quinazoline | ClC1=NC=NC2=CC(=C(C=C12)OC(C)=O)OC | C11H9ClN2O3
